US07745452B2
6-Chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydro-quinazolin-2 (1H)-one (8-5)
To a −78° C. mixture of 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (214 mg, 0.6 mmol) and tetrahydrofuran (2.0 ml) was added triethylamine (0.4 ml, 3.1 mmol) under nitrogen atmosphere. After stirring mixture at −78° C. for 20 minutes, thionyl chloride (0.05 ml, 0.64 mmol) was added dropwise whereupon a yellow solid precipitated in the reaction mixture forming a thick yellow emulsion. After the emulsion was stirred at −78° C. for 30 minutes, 3.0M phenyl magnesium bromide was added. Reaction was allowed to stir for one hour until no further increase in desired product was observed by LC/MS. Reaction was quenched with saturated aqueous ammonium chloride solution (10 ml) at −78° C. and mixture was allowed to warm to room temperature. Mixture was extracted with ethyl acetate (3×20 ml) and combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The resulting crude oil was purified by flash chromatography on silica gel (0-30% ethyl acetate/hexanes) to afford an oil which was further purified by reverse phase prep HPLC to give 6-chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one as colorless oil. 1H NMR (CD3OD, 400 MHz) δ 7.52 (m, 5H), 7.34 (dd, J=2.4 and 8.4 Hz, 1H), 6.95 (d, J=8.4 Hz, 1H), 6.4 (m, 1H), 4.29 (m, 1H), 3.62 (m, 1H). Exact Mass (Electrospray, M+H): Calc'd, 409.0537; Found, 409.0533.

reactant | 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 0.6 mmol, 214 mg | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)O | C11H7ClF6N2O2
reactant | triethylamine | 3.1 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 0.64 mmol, 0.05 ml | S(=O)(Cl)Cl | Cl2OS
reactant | phenyl magnesium bromide | 3.0M | C1(=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | 6-Chloro-4-phenyl-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydro-quinazolin-2 (1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)C1=CC=CC=C1 | C17H11ClF6N2O
